US06887896B1
(2E)-2-Fluoro-3-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenal (Compound A-61)
As described in General Procedure H-1, (2E)-2-fluoro-3-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenol (Compound A-52, 0.180 g, 0.54 mmol), tetrapropylammonium perruthenate (0.027 g, 0.081 mmol) and 4-methylmorpholine N-oxide (0.158 g, 1.35 mmol) were reacted in acetonitrile (1.5 mL) and dichloromethane (7.5 mL) to give the title compound.

reactant | (2E)-2-fluoro-3-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenol | 0.54 mmol, 0.180 g | F\C(\CO)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)C)(C)C)OCC | C21H29FO2
reactant | 4-methylmorpholine N-oxide | 1.35 mmol, 0.158 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | dichloromethane | 7.5 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
catalyst | tetrapropylammonium perruthenate | 0.081 mmol, 0.027 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | (2E)-2-Fluoro-3-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenal | F\C(\C=O)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)C)(C)C)OCC | C21H27FO2
